US06399629B1
(F) trans-4-(N-tert-Butoxycarbonylamino)-1-(N-tert-Butoxycarbonyl-N-Methylglycyl)-L-Proline
A solution of lithium hydroxide monohydrate (35 mg) in water (2 mL) was added to a solution of trans-4-(N-tert-butoxycarbonylamino)-1-(N-tert-butoxycarbonyl-N-methylglycyl)-L-proline methyl ester (E, 289 mg) in tetrahydrofuran (6 mL)-methanol (2 mL) at 0° C. After stirring at 0° C. for 10 min and at room temperature for 15 hr, the solvents were removed in vacuo. The residue was diluted with water and washed with diethyl ether. The aqueous layer was acidified with 1 N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and evaporated in vacuo to afford the title compound (258 mg) as a colorless oil. The compound appears as a mixture of rotamers: 1H NMR (400 MHz, CDCl3) δ 1.36 (s, 9H), 1.38 (s, 9H), 2.03-2.30 (m, 1.5H), 2.62-2.94 (m, 3.5H), 3.20-4.02 (m, 4H), 4.07-4.42 (m, 1H), 4.46-4.62 (m 1H), 5.24-5.62 (m, 0.5H), 5.70-5.82 (m, 0.5H), and 8.60 (br s, 1H).

reactant | lithium hydroxide monohydrate | 35 mg | O.[OH-].[Li+]
reactant | trans-4-(N-tert-butoxycarbonylamino)-1-(N-tert-butoxycarbonyl-N-methylglycyl)-L-proline methyl ester | 289 mg | COC([C@H]1N(C[C@@H](C1)NC(=O)OC(C)(C)C)C(CN(C)C(=O)OC(C)(C)C)=O)=O | C19H33N3O7
reactant | methanol | 2 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | trans-4-(N-tert-Butoxycarbonylamino)-1-(N-tert-Butoxycarbonyl-N-Methylglycyl)-L-Proline | 258 mg | C(C)(C)(C)OC(=O)N[C@@H]1C[C@H](N(C1)C(CN(C)C(=O)OC(C)(C)C)=O)C(=O)O | C18H31N3O7
